US06110929
Nitric acid (20 mL of 70%) was added to a hot (125° C.) solution of 7-fluoro-4-quinolinol (35 g, 214 mmol) in propionic acid (200 mL). The reaction mixture was stirred at 125° C. for about 1.5 hours and then allowed to cool to ambient temperature. The resulting yellow precipitate was isolated by filtration, rinsed with water and then with ethanol, and then recrystallized from N,N-dimethylformamide/water to provide 18 g of 7-fluoro-3-nitro-4-quinolinol.

reactant | Nitric acid | 20 mL | [N+](=O)(O)[O-] | HNO3
reactant | 7-fluoro-4-quinolinol | 214 mmol, 35 g | FC1=CC=C2C(=CC=NC2=C1)O | C9H6FNO
solvent | propionic acid | 200 mL | C(CC)(=O)O | C3H6O2
product | 7-fluoro-3-nitro-4-quinolinol | 18 g | FC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C9H5FN2O3
